US08314097B2
A DMF (3 mL) solution of 3-Amino-4-(6,7-dihydro-5H-pyrrolo[1,2-c]imidazol-5-yl)benzonitrile (0.095 g, 0.42 mmol), given as example 6B, is treated with Et3N (0.09 mL, 0.64 mmol) and butyryl chloride (0.05 mL, 0.51 mmol) at room temperature. After 1 h the solution is concentrated. Purification via prep HPLC gives N-[5-Cyano-2-(6,7-dihydro-5H-pyrrolo[1,2-c]imidazol-5-yl)-phenyl]-butyramide. MS (ESI) m/z 295.1 (M+H); 1H NMR (400 MHz, CDCl3) δ ppm 1.01 (t, J=7.3 Hz, 3 H), 1.67-1.80 (m, 2 H), 2.35 (t, J=7.5 Hz, 2 H), 2.49-2.61 (m, 1 H), 2.88-3.01 (m, 2 H), 3.05-3.18 (m, 1 H), 5.56 (dd, J=8.0, 5.9 Hz, 1 H), 6.84 (s, 1 H), 6.97 (d, J=8.1 Hz, 1 H), 7.40 (s, 1 H), 7.45 (dd, J=8.1, 1.5 Hz, 1 H), 7.70 (br s, 1 H), 7.91 (s, 1 H).

reactant | 3-Amino-4-(6,7-dihydro-5H-pyrrolo[1,2-c]imidazol-5-yl)benzonitrile | 0.42 mmol, 0.095 g | NC=1C=C(C#N)C=CC1C1CCC=2N1C=NC2 | C13H12N4
reactant | Et3N | 0.64 mmol, 0.09 mL | CCN(CC)CC | C6H15N
reactant | butyryl chloride | 0.51 mmol, 0.05 mL | C(CCC)(=O)Cl | C4H7ClO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | N-[5-Cyano-2-(6,7-dihydro-5H-pyrrolo[1,2-c]imidazol-5-yl)-phenyl]-butyramide | C(#N)C=1C=CC(=C(C1)NC(CCC)=O)C1CCC=2N1C=NC2 | C17H18N4O
